US05260310
A solution of 3.8 g of ethyl 2-propylmalonamidate in 30 ml of acetone was treated with 22 ml of 1N KOH in ethanol and stirred for 4 hours, then concentrated, taken up in sodium bicarbonate solution and extracted with ethyl acetate. The aqueous phase was acidified to pH 2 at 0° C. with hydrochloric acid and extracted with ethyl acetate. The ethyl acetate phase was washed with brine, dried, concentrated and the residue was recrystallized from ethyl acetate/ether. There were obtained 1.96 g of 2-propylmalonic acid monoamide, m.p. 137° C.

reactant | ethyl 2-propylmalonamidate | 3.8 g | C(CC)C(C(=O)N)C(=O)OCC | C8H15NO3
reactant | KOH | 1N, 22 ml | [OH-].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 2-propylmalonic acid monoamide | 1.96 g | C(CC)C(C(=O)N)C(=O)O | C6H11NO3
